US04044060
151 g (1 mol) of p-nitrobenzaldehyde and 5 g (0.018 mol) of triphenylphosphine oxide are treated, in the tube reactor described above, at a temperature of 120° to 140° C, for 6 hours with 80 g (0.8 mol) of phosgene gas per hour. At the end of the reaction time the increased in weight was 53 g (calculated 55 g). Vacuum distillation of the resulting crude product gave, in a boiling range of 100° to 110° C/1.5 mm Hg, 177 g (86% of theory) of p-nitrobenzal chloride with a melting point of 44° to 46° C.

reactant | p-nitrobenzaldehyde | 1 mol, 151 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | phosgene | 0.8 mol, 80 g | C(=O)(Cl)Cl | CCl2O
catalyst | triphenylphosphine oxide | 0.018 mol, 5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=O | C18H15OP
product | p-nitrobenzal chloride | 177 g, 86% | [N+](=O)([O-])C1=CC=C(C(Cl)Cl)C=C1 | C7H5Cl2NO2
